US08202873B2
Couple 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.135 g, 0.452 mmol) and 4-isopropoxyphenylboronic acid (0.134 g, 0.743 mmol), in the presence of triphenylphosphine (0.0482 g, 0.184 mmol), palladium acetate (0.0118 g, 0.0526 mmol), aqueous 2 N sodium carbonate (0.3 mL) in a mixture of n-propanol (4 mL) and water (0.3 mL). Reflux for 17.5 hr.s, cool to room temperature and extract with DCM. Purify by silica gel chromatography, eluting with 0:100 to 1:1 ethyl acetate:hexanes, to give 3′-(4-isopropoxyphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.144 g, 80%).

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 0.452 mmol, 0.135 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | 4-isopropoxyphenylboronic acid | 0.743 mmol, 0.134 g | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
reactant | triphenylphosphine | 0.184 mmol, 0.0482 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2 N, 0.3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-propanol | 4 mL | C(CC)O | C3H8O
solvent | water | 0.3 mL | O | H2O
catalyst | palladium acetate | 0.0526 mmol, 0.0118 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3′-(4-isopropoxyphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 0.144 g, 80% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)OC(C)C | C22H30N4O3
